US04686227
A mixture of 2-methyl-3-trimethylammoniomethylimidazo[2,1-a]isoquinoline methylsulfate (4.5 g) and imidazole (2.02 g) in ethanol (45 ml) was refluxed with stirring for 7 hours and evaporated in vacuo. To the residue was added water and the resulting precipitates were collected by filtration and recrystallized from a mixture of ethyl acetate and n-hexane to give 3-(1-imidazolylmethyl)-2methylimidazo[2,1-a]isoquinoline (2.3 g).

reactant | 2-methyl-3-trimethylammoniomethylimidazo[2,1-a]isoquinoline methylsulfate | 4.5 g | COS(=O)(=O)[O-].CC=1N=C2N(C=CC3=CC=CC=C23)C1C[N+](C)(C)C
reactant | imidazole | 2.02 g | N1C=NC=C1 | C3H4N2
solvent | ethanol | 45 ml | C(C)O | C2H6O
product | 3-(1-imidazolylmethyl)-2methylimidazo[2,1-a]isoquinoline | 2.3 g | N1C(=NC=C1)CC1=C(N=C2N1C=CC1=CC=CC=C21)C | C16H14N4
